US06617315B1
4-Bromo-2-(cyclopropylamino)-5,6-dichloro-1H-benzimidazole
3-Bromo-4,5-dichloro-1,2-phenylenediamine (5.12 g, 20.0 mmol), cyclopropyl isothiocyanate (2.18 g, 21.98 mmol), 1-cyclohexyl-3-(2-morpholinoethylcarbodiimide metho-p-toluenesulfonate (11.0 g, 25.97 mmol) and pyridine (75 mL) were used according to general procedure I. The product was recrystallized from 1,4-dioxane to afford 2.23 g (53%) of a white solid. MS (CI): m/z 319 amu. Anal. Calcd for C10H8BrCl2N3(0.35 C4H8O2): C, 38.92; H, 3.09; N, 11.94. Found: C, 39.17; H, 3.05; N, 11.94.

reactant | 3-Bromo-4,5-dichloro-1,2-phenylenediamine | 20.0 mmol, 5.12 g | BrC=1C(=C(C=C(C1Cl)Cl)N)N | C6H5BrCl2N2
reactant | cyclopropyl isothiocyanate | 21.98 mmol, 2.18 g | C1(CC1)N=C=S | C4H5NS
reactant | 2-morpholinoethylcarbodiimide | O1CCN(CC1)CCN=C=N | C7H13N3O
reactant | p-toluenesulfonate | 25.97 mmol, 11.0 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | 4-Bromo-2-(cyclopropylamino)-5,6-dichloro-1H-benzimidazole | 2.23 g, 53% | BrC1=C(C(=CC=2NC(=NC21)NC2CC2)Cl)Cl | C10H8BrCl2N3
